*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:20:29 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFSX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFSX2 SN D Q QN CK
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET SN 2.77745e-16
*|P (SN X 0 3.5000 1.0450)
*|I (Mmn30:g Mmn30 g X 0 3.2625 0.4725)
*|I (Mmn50:g Mmn50 g X 0 3.5275 0.4725)
*|I (Mmp30:g Mmp30 g X 0 3.3325 1.0425)
*|I (Mmp50:g Mmp50 g X 0 3.5275 1.0425)
*|S (SN:2 3.4900 0.8100)
*|S (SN:3 3.4900 0.7325)
C1 Mmp50:g VSS 2.45494e-17
C2 Mmp30:g VSS 3.0755e-17
C3 Mmn50:g VSS 2.70533e-17
C4 Mmn30:g VSS 4.07998e-17
C5 SN:3 VSS 2.95512e-17
C6 SN:2 VSS 5.62088e-17
C7 SN VSS 6.88271e-17
Rl1 SN:2 SN:3 6.662025 $W=0.114
Rl2 SN:3 Mmn30:g 132.898575 $W=0.039
Rl3 SN:3 Mmn50:g 66.834091 $W=0.039
Rl4 SN:2 Mmp30:g 76.128983 $W=0.039
Rl5 Mmp50:g SN:2 38.408871 $W=0.039
Rk6 SN SN:2 45.140934 $W=0.1
*
*|NET D 2.77381e-16
*|P (D X 0 0.5000 1.0450)
*|I (Mmn25:g Mmn25 g X 0 0.5375 0.4625)
*|I (Mmp25:g Mmp25 g X 0 0.5425 1.2225)
*|S (D:2 0.5100 0.6700)
C8 Mmp25:g VSS 5.04424e-17
C9 Mmn25:g VSS 5.76639e-17
C10 D:2 VSS 1.22578e-16
C11 D VSS 4.66963e-17
Rl7 D:2 Mmn25:g 39.153313 $W=0.039
Rl8 Mmp25:g D:2 156.831543 $W=0.039
Rk9 D D:2 45.224892 $W=0.1
*
*|NET Q 1.75216e-16
*|P (Q X 0 4.7000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 4.7050 0.5300)
*|I (Mmp55@1:d Mmp55@1 d X 0 4.7075 1.0950)
C12 Mmp55@1:d VSS 9.20938e-17
C13 Mmn55:d VSS 4.44855e-17
C14 Q VSS 3.86364e-17
Rk10 Mmn55:d Q 75.046570 $W=0.1
Rk11 Mmp55@1:d Q 20.924543 $W=0.1
*
*|NET QN 1.26457e-16
*|P (QN X 0 5.3000 0.8550)
*|I (Mmn57:d Mmn57 d X 0 5.2900 0.5300)
*|I (Mmp57@1:d Mmp57@1 d X 0 5.2900 1.0950)
C15 Mmp57@1:d VSS 6.53482e-17
C16 Mmn57:d VSS 3.86739e-17
C17 QN VSS 2.24347e-17
Rk12 Mmn57:d QN 75.148010 $W=0.1
Rk13 Mmp57@1:d QN 20.810598 $W=0.1
*
*|NET CK 2.58087e-16
*|P (CK X 0 0.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 0.3375 0.4625)
*|I (Mmp20:g Mmp20 g X 0 0.3375 1.2225)
*|S (CK:2 0.3100 1.0050)
*|S (CK:4 0.3050 1.0050)
C18 Mmp20:g VSS 3.20273e-17
C19 Mmn20:g VSS 5.54813e-17
C20 CK:4 VSS 1.02124e-16
C21 CK:2 VSS 3.97327e-17
C22 CK VSS 2.87227e-17
Rl14 CK:2 Mmn20:g 167.999466 $W=0.039
Rl15 Mmp20:g CK:2 29.537928 $W=0.039
Rk16 CK:4 CK 0.023988 $W=0.1
Rk17 CK:2 CK:4 45.000000 $W=0.1
*
*|NET CKb 1.19774e-15
*|I (Mmn20:d Mmn20 d X 0 0.2450 0.4625)
*|I (Mmn26:g Mmn26 g X 0 0.6425 0.4625)
*|I (Mmn21:g Mmn21 g X 0 1.5675 0.4625)
*|I (Mmn52:g Mmn52 g X 0 2.2925 0.5525)
*|I (Mmp20:d Mmp20 d X 0 0.2450 1.2225)
*|I (Mmp36:g Mmp36 g X 0 1.0775 1.2225)
*|I (Mmp21:g Mmp21 g X 0 1.5675 1.2225)
*|I (Mmp40:g Mmp40 g X 0 2.0575 1.1275)
*|S (CKb:2 0.6700 0.6650)
*|S (CKb:4 1.0500 0.8950)
*|S (CKb:7 1.5950 0.2800)
*|S (CKb:9 2.0300 0.8550)
*|S (CKb:11 2.2650 0.1900)
*|S (CKb:12 2.0300 0.2800)
*|S (CKb:13 1.0500 0.3150)
*|S (CKb:14 0.6700 0.4800)
*|S (CKb:16 0.2350 0.4500)
C23 Mmp40:g VSS 3.68501e-17
C24 Mmp21:g VSS 5.44769e-17
C25 Mmp36:g VSS 6.30272e-17
C26 Mmp20:d VSS 8.48524e-17
C27 Mmn52:g VSS 4.46575e-17
C28 Mmn21:g VSS 5.95055e-17
C29 Mmn26:g VSS 4.87154e-17
C30 Mmn20:d VSS 8.73751e-17
C31 CKb:14 VSS 6.33506e-17
C32 CKb:13 VSS 8.77272e-17
C33 CKb:12 VSS 8.86389e-17
C34 CKb:2 VSS 6.734e-17
C35 CKb:4 VSS 1.1202e-16
C36 CKb:7 VSS 1.03662e-16
C37 CKb:9 VSS 1.33721e-16
C38 CKb:11 VSS 6.18195e-17
Rl18 Mmn26:g CKb:2 82.230240 $W=0.039
Rl19 Mmn21:g CKb:7 74.537926 $W=0.039
Rl20 Mmn52:g CKb:11 143.768692 $W=0.039
Rl21 Mmp36:g CKb:4 116.845619 $W=0.039
Rl22 Mmp21:g Mmn21:g 223.076920 $W=0.039
Rl23 Mmp40:g CKb:9 94.232826 $W=0.039
Rk24 CKb:11 CKb:12 0.241742 $W=0.09
Rk25 CKb:12 CKb:9 0.452239 $W=0.08
Rk26 CKb:12 CKb:7 0.283210 $W=0.09
Rk27 CKb:7 CKb:13 0.431667 $W=0.09
Rk28 CKb:13 CKb:4 0.409818 $W=0.08
Rk29 CKb:14 CKb:2 0.150619 $W=0.08
Rk30 CKb:13 CKb:14 0.393194 $W=0.09
Rk31 CKb:14 CKb:16 0.281160 $W=0.09
Rk32 Mmn20:d CKb:16 75.000000 $W=0.09
Rk33 CKb:16 Mmp20:d 62.673683 $W=0.09
*
*|NET n21 3.26191e-18
*|I (Mmn25:d Mmn25 d X 0 0.5900 0.4625)
*|I (Mmn26:s Mmn26 s X 0 0.5900 0.4625)
C39 Mmn25:d VSS 3.26191e-18
Rmw34 Mmn26:s Mmn25:d 0.001000 $W=1
*
*|NET n20 7.54781e-16
*|I (Mmn26:d Mmn26 d X 0 0.9550 0.4625)
*|I (Mmn31:g Mmn31 g X 0 3.1025 0.4725)
*|I (Mmp26:d Mmp26 d X 0 0.9750 1.2225)
*|I (Mmp31:g Mmp31 g X 0 3.1025 1.0425)
*|S (n20:3 3.1400 1.3950)
*|S (n20:5 0.9750 1.1750)
C40 Mmp31:g VSS 5.78541e-17
C41 Mmp26:d VSS 2.65211e-16
C42 Mmn31:g VSS 5.00368e-17
C43 Mmn26:d VSS 1.01252e-16
C44 n20:3 VSS 2.80427e-16
Rl35 Mmp31:g n20:3 125.002060 $W=0.039
Rl36 Mmp31:g Mmn31:g 150.000000 $W=0.039
Rk37 n20:3 n20:5 1.933613 $W=0.08
Rk38 n20:5 Mmn26:d 75.535324 $W=0.09
Rk39 Mmp26:d n20:5 62.000000 $W=0.08
*
*|NET n30 0
*|I (Mmn35:s Mmn35 s X 0 1.3200 0.4625)
*|I (Mmn36:d Mmn36 d X 0 1.3200 0.4625)
Rmw40 Mmn36:d Mmn35:s 0.001000 $W=1
*
*|NET CKbb 6.07202e-16
*|I (Mmn35:g Mmn35 g X 0 1.2675 0.4625)
*|I (Mmn21:d Mmn21 d X 0 1.6600 0.4625)
*|I (Mmn40:g Mmn40 g X 0 2.0875 0.5525)
*|I (Mmp26:g Mmp26 g X 0 0.8725 1.2225)
*|I (Mmp21:d Mmp21 d X 0 1.6600 1.2225)
*|I (Mmp52:g Mmp52 g X 0 2.2625 1.1275)
*|S (CKbb:2 1.2400 0.7200)
*|S (CKbb:5 2.0875 0.7225)
*|S (CKbb:6 1.7100 0.7500)
*|S (CKbb:9 1.6400 0.7200)
C45 Mmp52:g VSS 4.99186e-17
C46 Mmp21:d VSS 6.45368e-17
C47 Mmp26:g VSS 7.45793e-17
C48 Mmn40:g VSS 2.82796e-17
C49 Mmn21:d VSS 3.77432e-17
C50 Mmn35:g VSS 4.33058e-17
C51 CKbb:9 VSS 3.15326e-17
C52 CKbb:5 VSS 7.05465e-17
C53 CKbb:2 VSS 1.13177e-16
C54 CKbb:6 VSS 9.35831e-17
Rl41 CKbb:5 CKbb:6 175.694550 $W=0.039
Rl42 Mmn35:g CKbb:2 54.578983 $W=0.039
Rl43 CKbb:5 Mmn40:g 30.450726 $W=0.039
Rl44 CKbb:2 Mmp26:g 266.850525 $W=0.039
Rl45 Mmp52:g CKbb:5 153.389694 $W=0.039
Rk46 CKbb:6 CKbb:9 0.051659 $W=0.06
Rk47 CKbb:9 CKbb:2 45.277321 $W=0.1
Rk48 CKbb:9 Mmn21:d 75.151642 $W=0.0935
Rk49 Mmp21:d CKbb:6 62.303253 $W=0.09
*
*|NET mout 9.68417e-16
*|I (Mmn36:g Mmn36 g X 0 1.3725 0.4625)
*|I (Mmn40:s Mmn40 s X 0 1.9375 0.5525)
*|I (Mmn31:d Mmn31 d X 0 3.0100 0.4725)
*|I (Mmp35:g Mmp35 g X 0 1.1825 1.2225)
*|I (Mmp40:s Mmp40 s X 0 1.9650 1.1275)
*|I (Mmp31:d Mmp31 d X 0 3.2175 1.0425)
*|S (mout:2 1.4000 0.9800)
*|S (mout:5 2.7700 1.0150)
*|S (mout:6 1.9550 1.3350)
*|S (mout:8 1.9550 1.1750)
C55 Mmp31:d VSS 6.69666e-17
C56 Mmp40:s VSS 6.59718e-17
C57 Mmp35:g VSS 7.08874e-17
C58 Mmn31:d VSS 9.0926e-17
C59 Mmn40:s VSS 9.69768e-17
C60 Mmn36:g VSS 8.52133e-17
C61 mout:6 VSS 1.63048e-16
C62 mout:5 VSS 1.66149e-16
C63 mout:2 VSS 1.62279e-16
Rl50 Mmn36:g mout:2 153.641220 $W=0.039
Rl51 mout:2 Mmp35:g 98.054115 $W=0.039
Rk52 mout:6 mout:2 45.687973 $W=0.08
Rk53 mout:5 mout:6 0.844332 $W=0.08
Rk54 mout:6 mout:8 0.091077 $W=0.1
Rk55 mout:8 Mmn40:s 75.499634 $W=0.08
Rk56 Mmn31:d mout:5 75.513435 $W=0.09
Rk57 Mmp40:s mout:8 62.000000 $W=0.09
Rk58 mout:5 Mmp31:d 62.349216 $W=0.08
*
*|NET n35 7.21171e-16
*|I (Mmn40:d Mmn40 d X 0 2.1900 0.5525)
*|I (Mmn45:g Mmn45 g X 0 4.3125 0.5575)
*|I (Mmp40:d Mmp40 d X 0 2.1600 1.1275)
*|I (Mmp45:g Mmp45 g X 0 4.3775 1.1350)
*|S (n35:1 2.9600 0.8000)
*|S (n35:2 2.5200 0.8550)
*|S (n35:4 4.2750 0.8300)
*|S (n35:6 2.1900 0.8550)
C64 Mmp45:g VSS 5.08916e-17
C65 Mmp40:d VSS 4.22578e-17
C66 Mmn45:g VSS 4.03456e-17
C67 Mmn40:d VSS 5.18918e-17
C68 n35:6 VSS 5.42912e-17
C69 n35:2 VSS 7.89683e-17
C70 n35:1 VSS 1.94971e-16
C71 n35:4 VSS 2.07554e-16
Rl59 n35:1 n35:2 233.691238 $W=0.039
Rl60 n35:4 Mmn45:g 51.771091 $W=0.039
Rl61 Mmp45:g n35:4 56.137833 $W=0.039
Rk62 n35:4 n35:1 46.230564 $W=0.08
Rk63 n35:2 n35:6 0.219166 $W=0.09
Rk64 n35:6 Mmn40:d 75.223732 $W=0.08
Rk65 n35:6 Mmp40:d 62.163097 $W=0.09
*
*|NET n40 3.29023e-16
*|I (Mmn52:s Mmn52 s X 0 2.3850 0.5525)
*|I (Mmn51:d Mmn51 d X 0 3.8650 0.4725)
C72 Mmn51:d VSS 1.73908e-16
C73 Mmn52:s VSS 1.55115e-16
Rk66 Mmn51:d Mmn52:s 151.292389 $W=0.08
*
*|NET n25 7.81025e-19
*|I (Mmn31:s Mmn31 s X 0 3.1825 0.4725)
*|I (Mmn30:d Mmn30 d X 0 3.1825 0.4725)
C74 Mmn31:s VSS 7.81025e-19
Rmw67 Mmn30:d Mmn31:s 0.001000 $W=1
*
*|NET n42 5.73546e-18
*|I (Mmn50:d Mmn50 d X 0 3.6500 0.4725)
*|I (Mmn51:s Mmn51 s X 0 3.6500 0.4725)
C75 Mmn50:d VSS 5.73546e-18
Rmw68 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET qbint 8.06803e-16
*|I (Mmn51:g Mmn51 g X 0 3.7725 0.4725)
*|I (Mmn45:d Mmn45 d X 0 4.2200 0.5575)
*|I (Mmn55:g Mmn55 g X 0 4.5775 0.5300)
*|I (Mmn56:g Mmn56 g X 0 5.6425 0.5875)
*|I (Mmp51:g Mmp51 g X 0 3.7725 1.0425)
*|I (Mmp45:d Mmp45 d X 0 4.2850 1.1350)
*|I (Mmp56:g Mmp56 g X 0 5.6425 1.0075)
*|S (qbint:1 3.8600 0.6700)
*|S (qbint:2 3.7725 0.6700)
*|S (qbint:14 5.7150 0.3900)
*|S (qbint:18 4.2750 1.0400)
*|S (qbint:19 4.2100 0.6700)
C76 Mmp56:g VSS 4.70142e-17
C77 Mmp45:d VSS 5.46744e-17
C78 Mmp51:g VSS 3.70909e-17
C79 Mmn56:g VSS 3.0927e-17
C80 Mmn55:g VSS 3.63959e-16
C81 Mmn45:d VSS 6.70606e-18
C82 Mmn51:g VSS 2.89223e-17
C83 qbint:19 VSS 4.39506e-17
C84 qbint:2 VSS 2.04278e-17
C85 qbint:1 VSS 6.69881e-17
C86 qbint:14 VSS 1.06143e-16
Rl69 qbint:1 qbint:2 50.914963 $W=0.094
Rl70 qbint:2 Mmn51:g 43.944893 $W=0.039
Rl71 Mmn56:g qbint:14 93.608017 $W=0.039
Rl72 qbint:2 Mmp51:g 97.791054 $W=0.039
Rl73 Mmp56:g Mmn56:g 92.307693 $W=0.039
Rk74 qbint:19 qbint:1 0.274636 $W=0.08
Rk75 qbint:19 Mmn45:d 75.031105 $W=0.1
Rk76 Mmn55:g qbint:14 0.578093 $W=0.09
Rk77 qbint:18 Mmn55:g 0.283649 $W=0.09
Rk78 qbint:19 Mmn55:g 0.175523 $W=0.09
Rk79 qbint:18 Mmp45:d 62.000000 $W=0.08
*
*|NET net331 2.46766e-16
*|I (Mmn57:g Mmn57 g X 0 5.1875 0.5300)
*|I (Mmn56:d Mmn56 d X 0 5.7350 0.5875)
*|I (Mmp56:d Mmp56 d X 0 5.7350 1.0075)
*|S (net331:6 5.5000 0.7800)
*|S (net331:9 5.7450 0.7800)
C87 Mmp56:d VSS 1.52949e-17
C88 Mmn56:d VSS 2.37366e-17
C89 Mmn57:g VSS 1.37087e-16
C90 net331:9 VSS 1.64324e-17
C91 net331:6 VSS 5.42146e-17
Rl80 Mmn57:g net331:6 57.846180 $W=0.094
Rk81 net331:9 net331:6 0.150192 $W=0.09
Rk82 net331:9 Mmn56:d 75.125771 $W=0.1
Rk83 net331:9 Mmp56:d 62.130722 $W=0.1
*
*|NET n22 0
*|I (Mmp25:d Mmp25 d X 0 0.7075 1.2225)
*|I (Mmp26:s Mmp26 s X 0 0.7075 1.2225)
Rmw84 Mmp26:s Mmp25:d 0.001000 $W=1
*
*|NET n31 1.06945e-18
*|I (Mmp36:s Mmp36 s X 0 1.1300 1.2225)
*|I (Mmp35:d Mmp35 d X 0 1.1300 1.2225)
C92 Mmp36:s VSS 1.06945e-18
Rmw85 Mmp35:d Mmp36:s 0.001000 $W=1
*
*|NET n41 3.31565e-16
*|I (Mmp52:s Mmp52 s X 0 2.4425 1.1275)
*|I (Mmp50:d Mmp50 d X 0 3.6500 1.0425)
C93 Mmp50:d VSS 1.42572e-16
C94 Mmp52:s VSS 1.88993e-16
Rk86 Mmp50:d Mmp52:s 125.200447 $W=0.08
*
*Instance Section
*
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04637P	PD=0.57U	PS=1.36U
+ fw=1.45e-07 sa=1.4e-07 sb=1.37e-06 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.04637P	PD=0.41U	PS=1.36U
+ fw=1.45e-07 sa=3.4e-07 sb=1.17e-06 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn26	Mmn26:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0841P	AS=0.0087P	PD=1.45U	PS=0.41U
+ fw=1.45e-07 sa=4.45e-07 sb=1.065e-06 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn35	Mmn26:d	Mmn35:g	Mmn35:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0841P	AS=0.0087P	PD=1.45U	PS=0.41U
+ fw=1.45e-07 sa=1.07e-06 sb=4.4e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn36	Mmn36:d	Mmn36:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.04565P	PD=0.41U	PS=1.35U
+ fw=1.45e-07 sa=1.175e-06 sb=3.35e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04565P	PD=0.57U	PS=1.35U
+ fw=1.45e-07 sa=1.37e-06 sb=1.4e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn40	Mmn40:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.03698P	PD=0.61U	PS=0.8U
+ fw=1.45e-07 sa=2.55e-07 sb=3.45e-07 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn52	Mmn40:d	Mmn52:g	Mmn52:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=4.6e-07 sb=1.4e-07 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.01668P	PD=0.57U	PS=0.52U
+ fw=1.45e-07 sa=1.4e-07 sb=8.1e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01668P	AS=0.0511P	PD=0.52U	PS=1.05U
+ fw=1.45e-07 sa=3e-07 sb=6.5e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.029P	AS=0.0511P	PD=0.69U	PS=1.05U
+ fw=1.45e-07 sa=5.65e-07 sb=3.85e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.029P	PD=0.57U	PS=0.69U
+ fw=1.45e-07 sa=8.1e-07 sb=1.4e-07 sca=11.4452 scb=0.0112553 scc=0.00042156
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.09285P	PD=0.69U	PS=1.6U
+ fw=2.05e-07 sa=1.4e-07 sb=1.38512e-06 sca=19.867 scb=0.0198061 scc=0.00201945
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.06562P	PD=0.57U	PS=1.71U
+ fw=1.45e-07 sa=1.47e-06 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0546P	AS=0.10593P	PD=0.94U	PS=1.69U	M=2
+ fw=2.6e-07 sa=3.55288e-07 sb=1.07673e-06 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.09231P	PD=0.84U	PS=1.745U	M=2
+ fw=2.6e-07 sa=9.65288e-07 sb=4.66731e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.37e-06 sca=16.7501 scb=0.0170023 scc=0.000364399
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06128P	AS=0.0344P	PD=1U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.165e-06 sca=13.1595 scb=0.0109711 scc=0.000224272
Mmp26	Mmp26:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.06128P	PD=0.75U	PS=1U
+ fw=2.15e-07 sa=6.75e-07 sb=8.35e-07 sca=11.5515 scb=0.00958998 scc=0.000220658
Mmp36	Mmp26:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0129P	PD=0.75U	PS=0.55U
+ fw=2.15e-07 sa=8.8e-07 sb=6.3e-07 sca=11.3578 scb=0.0095436 scc=0.000220652
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.1517P	PD=0.55U	PS=2.02U
+ fw=2.15e-07 sa=9.85e-07 sb=5.25e-07 sca=11.3578 scb=0.0095436 scc=0.000220652
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.1517P	PD=0.71U	PS=2.02U
+ fw=2.15e-07 sa=1.37e-06 sb=1.4e-07 sca=11.3578 scb=0.0095436 scc=0.000220652
Mmp40	Mmp40:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=5.2e-07 sca=16.037 scb=0.0158964 scc=0.00103899
Mmp52	Mmp40:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.06773P	PD=0.75U	PS=1.06U
+ fw=2.15e-07 sa=3.45e-07 sb=3.15e-07 sca=16.037 scb=0.0158964 scc=0.00103899
Mmp31	Mmp31:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03978P	AS=0.09415P	PD=0.8U	PS=1.73U
+ fw=2.15e-07 sa=1.7e-07 sb=7.7e-07 sca=29.9075 scb=0.0247057 scc=0.00372713
Mmp30	Mmp31:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03977P	AS=0.06465P	PD=0.8U	PS=1.83U
+ fw=2.15e-07 sa=4e-07 sb=5.4e-07 sca=29.9075 scb=0.0247057 scc=0.00372713
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.043P	AS=0.06465P	PD=0.83U	PS=1.83U
+ fw=2.15e-07 sa=5.95e-07 sb=3.45e-07 sca=29.9075 scb=0.0247057 scc=0.00372713
Mmp51	Mmp50:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.043P	AS=0.0539P	PD=0.83U	PS=1.73U
+ fw=2.15e-07 sa=8.4e-07 sb=1e-07 sca=29.9075 scb=0.0247057 scc=0.00372713
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.0576P	PD=0.9U	PS=1.1U
+ fw=3.1e-07 sa=1.4e-07 sb=1.24129e-06 sca=17.3904 scb=0.0162056 scc=0.00137566
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.06158P	PD=0.71U	PS=1.19U
+ fw=2.15e-07 sa=1.31384e-06 sb=1.4e-07 sca=50.5874 scb=0.0347407 scc=0.00598541
Mmp55@1	Mmp55@1:d	Mmn55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.07995P	AS=0.08925P	PD=1.19U	PS=1.25U	M=2
+ fw=3.9e-07 sa=2.94744e-07 sb=1.06987e-06 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp57@1	Mmp57@1:d	Mmn57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.09124P	PD=1.1U	PS=1.295U	M=2
+ fw=3.9e-07 sa=8.99744e-07 sb=4.64872e-07 sca=30.8584 scb=0.020306 scc=0.00336099
.ENDS
.END
